US07612054B2
Dibenzo[b,f]oxepine-10-carboxylic acid [4-butylcarbamoyl-1-(3,5-difluorobenzyl)-2-hydroxy-pentyl]-amide
Dibenzo[b,f]oxepine-10-carboxylic acid [2-(3,5-difluoro-phenyl)-1-(4-methyl-5-oxo-tetrahydrofuran-2-yl)-ethyl]-amide (50 mg, 0.105 mmol) is dissolved in 2 ml butylamine and stirred for 16 h. The solution is concentrated in vacuo and the residual solid recrystallized from EtOAc/hexane. Yield 27 mg (48%).

reactant | Dibenzo[b,f]oxepine-10-carboxylic acid [2-(3,5-difluoro-phenyl)-1-(4-methyl-5-oxo-tetrahydrofuran-2-yl)-ethyl]-amide | 0.105 mmol, 50 mg | FC=1C=C(C=C(C1)F)CC(C1OC(C(C1)C)=O)NC(=O)C1=CC2=C(OC3=C1C=CC=C3)C=CC=C2 | C28H23F2NO4
reactant | butylamine | 2 ml | C(CCC)N | C4H11N
product | Dibenzo[b,f]oxepine-10-carboxylic acid [4-butylcarbamoyl-1-(3,5-difluorobenzyl)-2-hydroxy-pentyl]-amide | C(CCC)NC(=O)C(CC(C(CC1=CC(=CC(=C1)F)F)NC(=O)C1=CC2=C(OC3=C1C=CC=C3)C=CC=C2)O)C | C32H34F2N2O4
